2186-01-30 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2186-1-29**] 07:23 PM
 BLOOD CULTURED - At [**2186-1-29**] 09:19 PM
   art line placed
 PARACENTESIS - At [**2186-1-29**] 10:17 PM
   8 liters cloudy green brown fluid removed
 URINE CULTURE - At [**2186-1-29**] 10:19 PM
   foley
 ARTERIAL LINE - START [**2186-1-29**] 10:21 PM
 BLOOD CULTURED - At [**2186-1-29**] 10:45 PM
   new central line
 MULTI LUMEN - START [**2186-1-30**] 12:00 AM
 EKG - At [**2186-1-30**] 12:39 AM
 ENDOSCOPY - At [**2186-1-30**] 01:35 AM showed multiple clots in stomach,
   no clear source of bleeding. Plan to rescope today.
   - s/p 4 u PRBC at [**Hospital1 **]. Hct droped from 27.6 to 25 after last 2 units.
   ordered 2 more units transfused, crossmatch additional 4 units.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-1-30**] 12:00 AM
   Metronidazole - [**2186-1-30**] 03:00 AM
   Vancomycin - [**2186-1-30**] 05:47 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2186-1-29**] 11:45 PM
   Fentanyl - [**2186-1-30**] 12:20 AM
   Pantoprazole (Protonix) - [**2186-1-30**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-1-30**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 118 (97 - 120) bpm
   BP: 92/50(65) {83/42(58) - 110/67(86)} mmHg
   RR: 20 (17 - 36) insp/min
   SpO2: 100%
    CVP: 13 (6 - 36)mmHg
   Total In:
                                                                  4,258 mL
                                                                  1,987 mL
   PO:
   TF:
   IVF:
                                                                    420 mL
                                                                  1,437 mL
   Blood products:
                                                                    838 mL
                                                                    550 mL
   Total out:
                                                                    120 mL
                                                                  8,655 mL
   Urine:
                                                                    120 mL
                                                                    255 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
                                                                  8,000 mL
   Balance:
                                                                  4,138 mL
                                                                 -6,662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 487 (487 - 522) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 43.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/23/167/14/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 334
   Physical Examination
   Gen: intubated, opens eyes to voice, cachetic with tense ascites
   HEENT: + scleral edema, slight scleral icterus, pupils reactive
   bilaterally, lips dry
   NECK: no jvp elevation, no lymphadenopathy
   CV: tachy but regular, no appreciable murmur, strong pmi
   LUNGS: grossly clear anteriorly with crackles at bilateral bases
   ABD: tense ascites with multiple spider angiomas; umbilical hernia more
   reducible on left > right, midline supraumbilical hernia which is
   reducible. hypoactive bowel sounds. + fluid wave. no grimace to
   palpation.
   EXT: cool, 1+ dp pulses bilaterally, 1+ pitting edema bilaterally
   SKIN: scattered ecchymoses
   NEURO: PERRL, + oculocephalic reflex, face symmetric, follows commands
   such as 'squeeze fingers' and 'wiggle toes' bilaterally, reflexes 1+ at
   biceps and patellae
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.0 g/dL
   304 mg/dL
   1.2 mg/dL
   14 mEq/L
   5.6 mEq/L
   27 mg/dL
   96 mEq/L
   133 mEq/L
   25.0 %
   12.2 K/uL
        [image002.jpg]
                            [**2186-1-29**]  08:39 PM
                            [**2186-1-29**]  09:52 PM
                            [**2186-1-29**]  10:57 PM
                            [**2186-1-30**]  02:33 AM
                            [**2186-1-30**]  03:33 AM
   WBC
   21.8
   12.2
   Hct
   27.6
   25.0
   Plt
   221
   100
   Cr
   1.2
   1.2
   TropT
   0.05
   0.04
   TCO2
   10
   10
   17
   Glucose
   152
   304
   Other labs: PT / PTT / INR:21.1/45.5/2.0, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:64/345, Alk Phos / T Bili:97/5.1,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:8.6 mmol/L,
   Albumin:2.5 g/dL, LDH:642 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: Unclear etiology but most concerning for hypovolemic (due to
   blood loss) versus septic/infectious. Patient has obvious GI blood loss
   with hct down to 21 on arrival at OSH. Hct here 26.4 (after 2 u prbcs
   at other hospital). Has clot in gastric fundus on EGD but no apparent
   varices. For infection, patient has leukocytosis with bandemia.
   Potential sources include abdomen (peritoneal fluid not indicative of
   sbp), ? stool (c diff given bandemia), and UTI (wbcs on urinalysis). ?
   other ingestion (given lithium level 0.2 and tylenol in serum tox) but
   unclear how related.
   - 2 U PRBCs & 2 U [**Year (4 digits) 1345**] on arrival to MICU
   - CVL and arterial line placed for monitoring
   - CVP goal [**11-20**]
   - MAP goal > 65
   - treat for uti with ceftriaxone
   - treat other sources broadly with vancomycin (given multiple recent
   hospitalizations)/flagyl (? ciff or other intraabdominal source)
   - wean levophed to off maintaining map > 65
   .
   # upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).
   - continue octreotide gtt, PPI [**Hospital1 **]
   - plan for repeat endoscopy in the morning, ? dose erythromycin 1 hour
   prior for motility
   - maintain active type & cross
   - 2u prbcs & 2 u [**Hospital1 **] as above
   - posttransfusion hct with AM labs
   - appreciate liver input
   - hold all anticoagulation, antiinflammatories
   .
   # metabolic acidosis: Anion gap 21 on most recent lytes. Lactate
   elevated at 12 so likely the culprit. Also with element of renal
   failure so ? contribution with nongap acidosis as well. Continue to
   trend.
   .
   # Respiratory failure: Intubated due to agonal respirations at OSH. ETT
   in good position.
   - adjust vent by ABGs
   - send sputum culture but no obvious infiltrate on CXR
   - ? eval L pleural effusion for tap, but likely related to ascites
   - repeat CXR in AM after paracentesis
   .
   # Altered mental status: Patient intermittently alert on arrival to
   MICU and following commands. Likely that unresponsiveness earlier
   related to hypotension, blood loss, ? infection. Continue to monitor
   and consider head imaging if mental status deteriorates. No overt
   signs/symptoms of stroke or seizure at present.
   .
   # Acute renal failure: Likely related to hypotension, volume depletion.
   continue to trend. Consider urine lytes if not improved in AM. No urine
   output on arrival but abdomen tense at that time. Continue to trend
   urine output but appears improved since paracentesis.
   - trend uop & creatinine
   - renally dose meds
   - avoid nephrotoxins
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   that ? vitamin K given at OSH, will repeat dose here. Fibrinogen also <
   150 on labs from arrival to our ED. Could represent an element of DIC
   given other active problems.
   - [**Name2 (NI) **] prn for goal INR < 2
   - vitamin K 10 mg iv X 1
   - trend coags
   - check hemolysis labs
   - check fibrinogen/fdp with AM labs
   .
   # hyperkalemia: Likely related to acidosis and renal insufficiency. No
   acute EKG changes so have not given insulin/d50 or calcium gluconate.
   - trend creatinine & potassium
   - repeat ekg in AM
   - reverse acidosis with bicarb fluids, improvement in hypotension
   .
   # Hyponatremia: Likely related to volume depletion with element of
   cirrhosis. Continue to trend after volume resuscitation.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   is now s/p large volume tap (8 L removed). Her alcohol level on arrival
   to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she continued
   to drink per their report). Also, the patient had tylenol in her serum
   tox (? ingestion time but could have been up to 24 hours prior).
   - follow peritoneal studies, culture results
   - albumin 6 g/L replacement tonight given 8 L paracentesis (50 g to be
   given)
   - appreciate Liver input
   - banana bag tonight then folate/thiamine/mvi daily
   - social work consult for family coping
   - treat for ? tylenol overdose with n-acetylcysteine
   - watch for withdrawal once extubated/off versed
   - attempt to obtain records from [**Hospital6 3017**] regarding prior
   discharges, other medical problems
   .
   # FEN: npo for now, replete lytes prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**]
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-1-29**] 07:23 PM
   18 Gauge - [**2186-1-29**] 07:30 PM
   Arterial Line - [**2186-1-29**] 10:21 PM
   Multi Lumen - [**2186-1-30**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-01-31 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2186-1-30**] 10:00 AM
 ENDOSCOPY - At [**2186-1-30**] 04:30 PM
   - Since AM transfused 2 units PRBCs (total of 6 now) and 2 FFPs
   - Still hypotensive, gave 3 L of NS, started vasopressin drip with rise
   in BP
   - prelim CXR from [**1-30**] ? RLL consolidation
   - scope found grade 1 varices, plus ulceration in the stomach - nothing
   actively bleeding
   - contact[**Name (NI) **] hepatologist - Dr. [**Last Name (STitle) 3036**] - will call back in AM - brief
   converstaion, pt last seen in summer, no contact since
   - brief discussion with family - one person has been designated as
   POC/decision maker - daughter [**Name (NI) **]
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2186-1-31**] 03:11 AM
   Ceftriaxone - [**2186-1-31**] 04:06 AM
   Vancomycin - [**2186-1-31**] 05:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-1-30**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-1-31**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 87 (87 - 125) bpm
   BP: 91/57(70) {69/38(51) - 120/72(89)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (8 - 26)mmHg
   Bladder pressure: 23 (23 - 23) mmHg
   Total In:
                                                                  9,114 mL
                                                                    588 mL
   PO:
   TF:
   IVF:
                                                                  7,296 mL
                                                                    588 mL
   Blood products:
                                                                  1,818 mL
   Total out:
                                                                  9,460 mL
                                                                    270 mL
   Urine:
                                                                    600 mL
                                                                    270 mL
   NG:
                                                                    860 mL
   Stool:
   Drains:
                                                                  8,000 mL
   Balance:
                                                                   -346 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/34/73.[**Numeric Identifier **]/23/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Gen: intubated, opens eyes to voice
   HEENT: PER, + scleral edema, + scleral icterus, lips dry
   CV: tachycardic, regular, strong pmi
   LUNGS: grossly clear anteriorly with bibasilar crackles
   ABD: small ventral/umbilical hernia, + bowel sounds. + fluid wave. no
   grimace to palpation.
   EXT: cool, +DP pulses, [**2-9**]+ pitting edema bilaterally
   SKIN: + jaundice
   NEURO: sedated, symmetric face
   Labs / Radiology
   76 K/uL
   11.7 g/dL
   189 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   30 mg/dL
   96 mEq/L
   129 mEq/L
   31.5 %
   17.7 K/uL
        [image002.jpg]
                            [**2186-1-30**]  02:33 AM
                            [**2186-1-30**]  03:33 AM
                            [**2186-1-30**]  08:25 AM
                            [**2186-1-30**]  01:55 PM
                            [**2186-1-30**]  02:04 PM
                            [**2186-1-30**]  06:18 PM
                            [**2186-1-30**]  07:37 PM
                            [**2186-1-30**]  08:47 PM
                            [**2186-1-31**]  03:21 AM
                            [**2186-1-31**]  03:43 AM
   WBC
   12.2
   17.6
   17.7
   Hct
   25.0
   28.5
   31.5
   31.5
   Plt
   100
   70
   76
   Cr
   1.2
   1.2
   1.2
   2.0
   TropT
   0.04
   TCO2
   17
   20
   22
   23
   23
   25
   Glucose
   [**Telephone/Fax (3) 3037**]89
   Other labs: PT / PTT / INR:22.1/48.5/2.1, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:64/345, Alk Phos / T Bili:97/5.1,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:3.0 mmol/L,
   Albumin:2.5 g/dL, LDH:642 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: Unclear etiology but most concerning for hypovolemic (due to
   blood loss) and septic/infectious. Patient had obvious GI blood loss
   with hct down to 21 on arrival at OSH. Hct here 26.4 (after 2 u prbcs
   at other hospital). Had clot in gastric fundus on initial EGD, repeat
   with grade 1 varices and gastric ulcer bu no sogns of active bleeding.
   Pt has leukocytosis with bandemia. Potential SBP r/o, other sources
   include stool (c diff given bandemia), UTI (pan [**Last Name (un) 206**] Klebsiella from
   OSH), aspiration PNA.
   - 4 U PRBCs & 4 U [**Last Name (un) 1345**] thus far in MICU
   - CVL and arterial line placed for monitoring
   - CVP goal [**11-20**]
   - MAP goal > 65, UOP > 30cc/hr
   - treat uti with ceftriaxone
   - treat other sources broadly with vancomycin (given multiple recent
   hospitalizations)
   - on levophed, vasopressin, fluid boluses prn
   .
   # Respiratory failure
 increased PEEP from yesterday with worsening
   bilat diffuse infiltrative process suggestive of ARDS.  Sputum cx with
   yeast and gram + cocci in pairs and chains.
   - cover with current abx
   -decrease Vtidal ~ 40
   -wean PEEP as tolerated
   -cont ABG
   -wean sedation to fentanyl, d/c midazolam
   .
   # Upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).  Now with no active visualized bleeding
   though some suggestion that pt is still oozing with guaiac positive
   stool.
   - cont PPI, on 2 pressors, will readdress need for octreotide PRN
   - maintain active type & cross
   - transfusion to keep crit > 25
   - AM/PM crits
   - liver following
   - hold all anticoagulation, antiinflammatories
   .
   # Metabolic acidosis: Anion gap closed from 21-> 16 -> 10 on most
   recent lytes. Lactate decreased to 3 in presence of renal failure.
   Issue resolved.  Will readdress PRN and cont to trend lytes and AG.
   .
   # Altered mental status: Patient intermittently alert on arrival to
   MICU and following commands.
   - sedated, opening eyes to voice
   - continue to monitor
   .
   # Acute renal failure: Likely related to hypotension, volume depletion.
    Recent rise in Cr, but making urine.
   - trend uop & creatinine
   - renally dose meds
   - avoid nephrotoxins
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   vitamin K given at OSH, will repeat dose here. Fibrinogen also < 150 on
   labs from arrival to our ED. Could represent an element of DIC given
   other active problems.
   - [**Name2 (NI) **] prn for goal INR < 2
   - vitamin K 10 mg admin
   - trend coags
   - check hemolysis labs
 slightly elevated for
   - check fibrinogen/fdp with AM labs
   .
   # Hyperkalemia: Likely related to acidosis and renal insufficiency. No
   acute EKG changes so have not given insulin/d50 or calcium gluconate.
   - trend creatinine & potassium
   - repeat ekg with further elevations of K
   - reverse acidosis with bicarb fluids, improvement in hypotension
   .
   # Hyponatremia: Likely related to intravascular volume depletion with
   element of cirrhosis; ADH may be playing a role with free water
   holding. Continue to trend.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   is now s/p large volume tap (8 L removed). Her alcohol level on arrival
   to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she continued
   to drink per their report). Also, the patient had tylenol in her serum
   tox (? ingestion time but could have been up to 24 hours prior).
   - SBP w/u negative
   - albumin 6 g/L replacement tonight given 8 L paracentesis (50 g to be
   given)
   - appreciate Liver input
   - banana bag first night; folate/thiamine/mvi daily
   - social work consult for family coping
   - n-acetylcysteine completed this AM
   - watch for withdrawal -> monitor vital signs
   - contact[**Name (NI) **] pt
s hepatologist, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3036**] in [**Location (un) 717**]
   stated last visit was in [**Month (only) 1374**], was not drinking then.  On aldactone,
   lasix, Vit K, b12, folate
 if pt is d/c
d she can follow-up with him
   .
   # FEN: npo for now, replete lytes prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**], daughter [**Name (NI) 3042**] making
   decisions on pt
s behalf
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL ABUSE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2186-1-29**] 10:21 PM
   Multi Lumen - [**2186-1-30**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-02-01 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Femoral MULTI LUMEN
 D/C
d [**2186-1-31**] 08:07 AM
 L MIDLINE - START [**2186-1-31**] 04:13 PM
   -ordered US with doppler of liver (per liver recs)
   -overbreathing vent, alkalotic on ABG so put on PS which he did not
   tolerate, back on AC
   -still on vasopressin, but weaned off levophed at MN
   - Had leakage from paracentesis site, now improved
   - off sedation
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2186-2-1**] 01:55 AM
   Ceftriaxone - [**2186-2-1**] 04:41 AM
   Vancomycin - [**2186-2-1**] 06:07 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Vasopressin - 2 units/hour
   Other ICU medications:
   Fentanyl - [**2186-1-31**] 09:56 PM
   Pantoprazole (Protonix) - [**2186-2-1**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-1**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 76 (64 - 95) bpm
   BP: 83/52(62) {73/47(56) - 141/99(112)} mmHg
   RR: 18 (16 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (12 - 271)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  1,314 mL
                                                                    472 mL
   PO:
   TF:
   IVF:
                                                                  1,314 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    465 mL
   Urine:
                                                                    970 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    344 mL
                                                                      7 mL
   FS 130s-160s
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 500) mL
   Vt (Spontaneous): 429 (429 - 429) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/38/117/25/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General: Intubated, responsive to voice, following some commands,
   opening eyes
   HEENT: +scleral icterus, nc/at. PERRL. EOMI. Op clear. RIJ in place
   without erythema
   CV: RRR. No m/r/g.
   Resp: CTAB with coarse BS b/l. No w/r/r
   Abd: distended with positive bs. Dull to percussion with fluid wave.
   Reducible umbilical hernias.
   Ext: 1+ edema B/L LE, Trace edema UE
   Skin:  No rash. Positive jaundice
   Neurologic: Responds to voice
   Labs / Radiology
   68 K/uL
   11.5 g/dL
   142 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   31 mg/dL
   97 mEq/L
   129 mEq/L
   31.1 %
   19.1 K/uL
        [image002.jpg]
                            [**2186-1-30**]  06:18 PM
                            [**2186-1-30**]  07:37 PM
                            [**2186-1-30**]  08:47 PM
                            [**2186-1-31**]  03:21 AM
                            [**2186-1-31**]  03:43 AM
                            [**2186-1-31**]  01:05 PM
                            [**2186-1-31**]  03:12 PM
                            [**2186-1-31**]  07:00 PM
                            [**2186-1-31**]  09:41 PM
                            [**2186-2-1**]  06:03 AM
   WBC
   17.6
   17.7
   19.1
   Hct
   31.5
   31.5
   31.1
   Plt
   70
   76
   68
   Cr
   1.2
   2.0
   1.1
   TCO2
   23
   23
   25
   26
   26
   27
   28
   Glucose
   [**Telephone/Fax (3) 3046**]42
   Other labs: PT / PTT / INR:22.1/48.5/2.1, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:57/244, Alk Phos / T Bili:93/6.8,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.5 g/dL, LDH:359 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: Unclear etiology but most concerning for hypovolemic (due to
   blood loss). Other possibility includes septic/infectious from known
   UTI. Patient had obvious GI blood loss with hct down to 21 on arrival
   at OSH. Hct here has been stable in around 30 last 2 days (after 2 u
   prbcs at other hospital). Had clot in gastric fundus on initial EGD,
   repeat with grade 1 varices and gastric ulcer but no signs of active
   bleeding. Pt still has has leukocytosis which is slightly improved.
   Potential SBP ruled out, other sources include stool (c diff given
   bandemia), aspiration PNA, but no other cultures positive except for
   urine. Since other sources less likely and no other signs of infection
   or positive cx data will discontinue vanc and cipro.
   - 4 U PRBCs & 4 U [**Telephone/Fax (3) 1345**] thus far in MICU, no recent transfusions
   - CVL and arterial line placed for monitoring
   - CVP goal [**11-20**]
   - MAP goal > 65, UOP > 30cc/hr
   - treat uti with ceftriaxone
   - discontinue vanc/cipro since no obvious source
   - off levophed, still on vasopressin which will wean as tolerated
   - continue fluid boluses prn
   .
   # Respiratory failure
 Improved ventilation and oxygenation on less
   ventilatory support. TV decreased for possible ARDS vent. PEEP had been
   increased yesterday with worsening bilateral diffuse infiltrative
   process suggestive of ARDS and lungs appear ti have improved aeration
   on today
s CXR.  Sputum cx with yeast and gram + cocci in pairs and
   chains on gram stain but op flora on cx.
   --decrease Vtidal 350
   -wean PEEP as tolerated,currently in 10 with good oxygen sats, PaO2 on
   ABG
   -serial ABGs
   -maintain off sedatyion if possible and decreased vent settings as
   tolerated
   .
   # Upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).  Now with no active visualized bleeding
   though some suggestion that pt is still oozing with guaiac positive
   stool.
   - cont PPI, will readdress need for octreotide PRN
   - maintain active type & cross
   - transfusion to keep crit > 25
   - AM/PM crits
   - liver following
   - hold all anticoagulation, antiinflammatories
   .
   # Metabolic acidosis: Anion gap. Lactate decreased to 1.3 in presence
   of renal failure.   Issue resolved.  Will readdress PRN and cont to
   trend lytes and AG.
   .
   # Altered mental status: Patient intermittently alert on arrival to
   MICU and following commands.
   - sedated, opening eyes to voice
   - continue to monitor
   - lactulose via NGT to help encephalopathy
   .
   # Acute renal failure: Likely related to hypotension, volume
   depletion.  Recent rise in Cr, now trending down with adequate UOP
   overnight.
   - trend uop & creatinine
   - renally dose meds
   - avoid nephrotoxins
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   vitamin K given at OSH.
   - [**Month/Year (2) **] prn for goal INR < 2
   - vitamin K 10 mg admin
   - trend coags
   - check hemolysis labs
 slightly elevated for
   - check fibrinogen/fdp with AM labs
   .
   # Thrombocytopenia: Likely related to underlying liver disease but has
   trended down since admission, possibly secondary to liver disease,
   concern for sepsis, also may be HIT but 4T
s not satisfied so will
   defer for now and
   - follow for now
   - transfuse plt<20 or active bleed
   .
   # Hyperkalemia: Resolved
   .
   # Hyponatremia: Likely related to intravascular volume depletion with
   element of cirrhosis; ADH may be playing a role with free water
   holding. Continue to trend. Improved.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   is now s/p large volume tap (8 L removed). Her alcohol level on arrival
   to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she continued
   to drink per their report). Also, the patient had tylenol in her serum
   tox (? ingestion time but could have been up to 24 hours prior).
   - SBP w/u negative
   - albumin 6 g/L replacement tonight
   - appreciate Liver input
   - folate/thiamine/mvi daily
   - social work consult for family coping
   - n-acetylcysteine completed
   - watch for withdrawal -> monitor vital signs
   - contact[**Name (NI) **] pt
s hepatologist, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3036**] in [**Location (un) 717**]
   stated last visit was in [**Month (only) 1374**], was not drinking then.  On aldactone,
   lasix, Vit K, b12, folate
 if pt is d/c
d she can follow-up with him
   - paracentesis today with albumin repletion
   .
   # FEN: npo for now, will start TFs today as tolerates, replete lytes
   prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**], daughter [**Name (NI) 3042**] making
   decisions on pt
s behalf
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL ABUSE
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2186-1-29**] 10:21 PM
   Multi Lumen - [**2186-1-30**] 12:00 AM
   22 Gauge - [**2186-1-31**] 12:25 PM
   Midline - [**2186-1-31**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-02-02 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2186-2-1**] 03:10 PM
   Had paracentesis, negative for SBP
   Had RUQ US: Reversed flow in main portal vein c/w portal HTN. Mod to
   large ascites
   Was sleepy (even off sedation) on PSV (although had received boluses
   for para), so changed to MMV, tolerating well
   Sedation increased since tried to pull OGT/ETT, ordered bolus sedation,
   off drips
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-2-1**] 04:41 AM
   Vancomycin - [**2186-2-1**] 06:07 AM
   Metronidazole - [**2186-2-1**] 09:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2186-2-2**] 12:48 AM
   Fentanyl - [**2186-2-2**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-2**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 101 (68 - 101) bpm
   BP: 118/71(83) {82/44(55) - 118/77(83)} mmHg
   RR: 8 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 17 (6 - 24)mmHg
   Total In:
                                                                  2,051 mL
                                                                    135 mL
   PO:
   TF:
   IVF:
                                                                  1,951 mL
                                                                    135 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  6,531 mL
                                                                     30 mL
   Urine:
                                                                    631 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                  5,200 mL
   Balance:
                                                                 -4,480 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 634 (396 - 685) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/34/133/26/3
   Ve: 4.4 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General: Intubated, responsive to voice, following some commands,
   opening eyes
   HEENT: +scleral icterus, nc/at. PERRL. EOMI. Op clear. RIJ in place
   without erythema
   CV: RRR. No m/r/g.
   Resp: CTAB with coarse BS b/l. No w/r/r
   Abd: distended with positive bs. Dull to percussion with fluid wave.
   Reducible umbilical hernias.
   Ext: 1+ edema B/L LE, Trace edema UE
   Skin:  No rash. Positive jaundice
   Neurologic: Responds to voice
   Labs / Radiology
   39 K/uL
   11.1 g/dL
   69 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   34 mg/dL
   103 mEq/L
   135 mEq/L
   31.8 %
   17.7 K/uL
        [image002.jpg]
                            [**2186-1-31**]  03:43 AM
                            [**2186-1-31**]  01:05 PM
                            [**2186-1-31**]  03:12 PM
                            [**2186-1-31**]  07:00 PM
                            [**2186-1-31**]  09:41 PM
                            [**2186-2-1**]  02:19 AM
                            [**2186-2-1**]  06:03 AM
                            [**2186-2-1**]  02:56 PM
                            [**2186-2-1**]  05:58 PM
                            [**2186-2-2**]  02:58 AM
   WBC
   19.1
   17.9
   18.3
   17.7
   Hct
   31.1
   31.0
   31.2
   31.8
   Plt
   68
   47
   47
   39
   Cr
   1.1
   1.1
   1.0
   0.9
   TCO2
   25
   26
   26
   27
   28
   26
   Glucose
   159
   142
   134
   133
   69
   Other labs: PT / PTT / INR:19.3/39.5/1.8, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:44/149, Alk Phos / T Bili:112/6.8,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.3 g/dL, LDH:308 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   RUQ U/S: reversal of flow in main portal vein c/s portal hypertension.
   Moderate-to-large ascites
   CXR: improved from yesterday, significantly larger lung volumes, small
   bil pleural effusions. Deep sulcus on L.
   SPUTUM [**2186-1-30**]: 2+ budding yeast w/ pseudohypae, and 2+ gram + cocci,
   ASCITES FLUID: Prot 1.0, GLU 160, LDH 91, [**Doctor First Name **] 16, Alb < 1.0, WBC 27,
   RBC 2930 (Poly 61, Lymph 14 M 1)
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: Unclear etiology but most concerning for hypovolemic (due to
   blood loss). Other possibility includes septic/infectious from known
   UTI. Patient had obvious GI blood loss with hct down to 21 on arrival
   at OSH. Hct here has been stable in around 30 last 2 days (after 2 u
   prbcs at other hospital). Had clot in gastric fundus on initial EGD,
   repeat with grade 1 varices and gastric ulcer but no signs of active
   bleeding. Pt still has has leukocytosis which is slightly improved.
   Potential SBP ruled out, other sources include stool (c diff given
   bandemia), aspiration PNA, but no other cultures positive except for
   urine. Since other sources less likely and no other signs of infection
   or positive cx data will discontinue vanc and cipro. 4 U PRBCs & 4 U
   FFP thus far in MICU, no recent transfusions, HCT stable at ~30. CVL
   and arterial line placed for monitoring. CVP goal [**11-20**]. MAP goal > 65,
   UOP > 30cc/hr. Pt pulled out A-line but as pressures have been good,
   will not replace.
   - Continue treating uti with ceftriaxone for 7 day course
   - Continue to wean off of vasopressin
   - continue fluid boluses prn
   .
   # Respiratory failure
 Improved ventilation and oxygenation on less
   ventilatory support. O2 sats and respiratory status has improved after
   paracentesis yesterday. Sputum with yeast and gram + cocci in pairs and
   chains on gram stain but op flora on cx.
   -wean PEEP as tolerated,currently in 10 with good oxygen sats, PaO2 on
   ABG
   -maintain off sedatyion if possible and decreased vent settings as
   tolerated
   - trial of PSV today and discussion with family about long term
   planning for trach if does not improve
   .
   # Upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).  Now with no active visualized bleeding
   though some suggestion that pt is still oozing with guaiac positive
   stool. HCT has been stable x several days at ~30.
   - continue daily HCT checks, unless pt decompensates, then will send
   stat hct.
   - cont PPI, will readdress need for octreotide PRN
   - maintain active type & cross
   - liver following
   - hold all anticoagulation, antiinflammatories
   .
   # Metabolic acidosis: Anion gap. Lactate decreased to 1.3 in presence
   of renal failure.   Issue resolved.  Will readdress PRN and cont to
   trend lytes and AG.
   .
   # Altered mental status: Patient intermittently alert on arrival to
   MICU and following commands. Sedation is off except for PRN. Lactulose
   30mg NGT TID started yesterday, may improve MS with time.
   - watch for signs of EtOH withdrawl
   - continue to monitor
   .
   # Acute renal failure: Likely related to hypotension, volume
   depletion.  Recent rise in Cr, now trending down with adequate UOP
   overnight. Cr now 0.9. Resolved.
   - continue to follow uop & creatinine
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   vitamin K given at OSH.
   - ffp prn for goal INR < 2
   - vitamin K 10 mg admin
   - trend coags
   - check hemolysis labs
 slightly elevated for
   - check fibrinogen/fdp with AM labs
   .
   # Thrombocytopenia: Likely related to underlying liver disease but has
   trended down since admission, possibly secondary to liver disease,
   concern for sepsis, also may be HIT but 4T
s not satisfied so will
   defer for now.
   - follow for now
   - transfuse plt<20 or active bleed
   .
   # Hyperkalemia: Resolved
   .
   # Hyponatremia: Likely related to intravascular volume depletion with
   element of cirrhosis; ADH may be playing a role with free water
   holding. Continue to trend. Improved.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   had an initial large volume tap (8 L removed). Her alcohol level on
   arrival to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she
   continued to drink per their report). Also, the patient had tylenol in
   her serum tox (? ingestion time but could have been up to 24 hours
   prior). Initial labs for SBP w/u negative. Had albumin 6 g/L
   replacement tonight . n-acetylcysteine completed. Paracentesis
   yesterday 4.8 L, neg for SBP, w improved respiratory status and CXR.
   Still oozing ascitic fluid from TAP site.
   - Continue folate/thiamine/mvi daily
   - social work consult for family coping
   - watch for withdrawal -> monitor vital signs
   - contact[**Name (NI) **] pt
s hepatologist, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3036**] in [**Location (un) 717**]
   stated last visit was in [**Month (only) 1374**], was not drinking then.  On aldactone,
   lasix, Vit K, b12, folate
 if pt is d/c
d she can follow-up with him
   .
   # FEN: npo for now, will start TFs today as tolerates, replete lytes
   prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**], daughter [**Name (NI) 3042**] making
   decisions on pt
s behalf
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL ABUSE
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2186-1-29**] 10:21 PM
   Multi Lumen - [**2186-1-30**] 12:00 AM
   Midline - [**2186-1-31**] 04:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-02-03 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2186-2-2**] 12:01 PM
 INVASIVE VENTILATION - STOP [**2186-2-2**] 04:40 PM
   Vasopressin weaned off
   TFs started
   Tolerated PSV 5/5 well with positive gag reflex
   Extubated in evening, tollerated well
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2186-2-1**] 06:07 AM
   Metronidazole - [**2186-2-1**] 09:30 AM
   Ceftriaxone - [**2186-2-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-3**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-3**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 96 (82 - 107) bpm
   BP: 95/59(73) {80/49(55) - 115/85(89)} mmHg
   RR: 21 (7 - 21) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 62.2 kg
   Height: 67 Inch
    CVP: 7 (5 - 23)mmHg
   Total In:
                                                                    578 mL
                                                                    144 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    418 mL
                                                                     84 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,235 mL
                                                                    610 mL
   Urine:
                                                                  1,035 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
                                                                    450 mL
   Balance:
                                                                 -2,657 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 490 (401 - 990) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: ///26/
   Ve: 8.2 L/min
   Physical Examination
   General: Intubated, responsive to voice, following some commands,
   opening eyes
   HEENT: +scleral icterus, nc/at. PERRL. EOMI. Op clear. RIJ in place
   without erythema
   CV: RRR. No m/r/g.
   Resp: CTAB with coarse BS b/l. No w/r/r
   Abd: distended with positive bs. Dull to percussion with fluid wave.
   Reducible umbilical hernias.
   Ext: 1+ edema B/L LE, Trace edema UE
   Skin:  No rash. Positive jaundice
   Neurologic: Responds to voice
   Labs / Radiology
   50 K/uL
   11.0 g/dL
   95 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   26 mg/dL
   110 mEq/L
   144 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2186-1-31**]  01:05 PM
                            [**2186-1-31**]  03:12 PM
                            [**2186-1-31**]  07:00 PM
                            [**2186-1-31**]  09:41 PM
                            [**2186-2-1**]  02:19 AM
                            [**2186-2-1**]  06:03 AM
                            [**2186-2-1**]  02:56 PM
                            [**2186-2-1**]  05:58 PM
                            [**2186-2-2**]  02:58 AM
                            [**2186-2-3**]  04:12 AM
   WBC
   19.1
   17.9
   18.3
   17.7
   14.2
   Hct
   31.1
   31.0
   31.2
   31.8
   30.8
   Plt
   68
   47
   47
   39
   50
   Cr
   1.1
   1.1
   1.0
   0.9
   0.6
   TCO2
   26
   26
   27
   28
   26
   Glucose
   159
   142
   134
   133
   69
   95
   Other labs: PT / PTT / INR:19.4/39.3/1.8, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:39/83, Alk Phos / T Bili:117/8.2,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.9 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: Unclear etiology but most concerning for hypovolemic (due to
   blood loss). Other possibility includes septic/infectious from known
   UTI. Patient had obvious GI blood loss with hct down to 21 on arrival
   at OSH. Hct here has been stable in around 30 last 2 days (after 2 u
   prbcs at other hospital). Had clot in gastric fundus on initial EGD,
   repeat with grade 1 varices and gastric ulcer but no signs of active
   bleeding. Pt still has has leukocytosis which is slightly improved.
   Potential SBP ruled out, other sources include stool (c diff given
   bandemia), aspiration PNA, but no other cultures positive except for
   urine. Since other sources less likely and no other signs of infection
   or positive cx data will discontinue vanc and cipro. 4 U PRBCs & 4 U
   FFP thus far in MICU, no recent transfusions, HCT stable at ~30. CVL
   and arterial line placed for monitoring. CVP goal [**11-20**]. MAP goal > 65,
   UOP > 30cc/hr. Pt pulled out A-line but as pressures have been good,
   will not replace.
   - Continue treating uti with ceftriaxone for 7 day course
   - Continue to wean off of vasopressin
   - continue fluid boluses prn
   .
   # Respiratory failure
 Improved ventilation and oxygenation on less
   ventilatory support. O2 sats and respiratory status has improved after
   paracentesis yesterday. Sputum with yeast and gram + cocci in pairs and
   chains on gram stain but op flora on cx.
   -wean PEEP as tolerated,currently in 10 with good oxygen sats, PaO2 on
   ABG
   -maintain off sedatyion if possible and decreased vent settings as
   tolerated
   - trial of PSV today and discussion with family about long term
   planning for trach if does not improve
   .
   # Upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).  Now with no active visualized bleeding
   though some suggestion that pt is still oozing with guaiac positive
   stool. HCT has been stable x several days at ~30.
   - continue daily HCT checks, unless pt decompensates, then will send
   stat hct.
   - cont PPI, will readdress need for octreotide PRN
   - maintain active type & cross
   - liver following
   - hold all anticoagulation, antiinflammatories
   .
   # Metabolic acidosis: Anion gap. Lactate decreased to 1.3 in presence
   of renal failure.   Issue resolved.  Will readdress PRN and cont to
   trend lytes and AG.
   .
   # Altered mental status: Patient intermittently alert on arrival to
   MICU and following commands. Sedation is off except for PRN. Lactulose
   30mg NGT TID started yesterday, may improve MS with time.
   - watch for signs of EtOH withdrawl
   - continue to monitor
   .
   # Acute renal failure: Likely related to hypotension, volume
   depletion.  Recent rise in Cr, now trending down with adequate UOP
   overnight. Cr now 0.9. Resolved.
   - continue to follow uop & creatinine
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   vitamin K given at OSH.
   - ffp prn for goal INR < 2
   - vitamin K 10 mg admin
   - trend coags
   - check hemolysis labs
 slightly elevated for
   - check fibrinogen/fdp with AM labs
   .
   # Thrombocytopenia: Likely related to underlying liver disease but has
   trended down since admission, possibly secondary to liver disease,
   concern for sepsis, also may be HIT but 4T
s not satisfied so will
   defer for now.
   - follow for now
   - transfuse plt<20 or active bleed
   .
   # Hyperkalemia: Resolved
   .
   # Hyponatremia: Likely related to intravascular volume depletion with
   element of cirrhosis; ADH may be playing a role with free water
   holding. Continue to trend. Improved.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   had an initial large volume tap (8 L removed). Her alcohol level on
   arrival to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she
   continued to drink per their report). Also, the patient had tylenol in
   her serum tox (? ingestion time but could have been up to 24 hours
   prior). Initial labs for SBP w/u negative. Had albumin 6 g/L
   replacement tonight . n-acetylcysteine completed. Paracentesis
   yesterday 4.8 L, neg for SBP, w improved respiratory status and CXR.
   Still oozing ascitic fluid from TAP site.
   - Continue folate/thiamine/mvi daily
   - social work consult for family coping
   - watch for withdrawal -> monitor vital signs
   - contact[**Name (NI) **] pt
s hepatologist, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3036**] in [**Location (un) 717**]
   stated last visit was in [**Month (only) 1374**], was not drinking then.  On aldactone,
   lasix, Vit K, b12, folate
 if pt is d/c
d she can follow-up with him
   .
   # FEN: npo for now, will start TFs today as tolerates, replete lytes
   prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**], daughter [**Name (NI) 3042**] making
   decisions on pt
s behalf
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL ABUSE
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-1-30**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-02-03 11:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2186-2-2**] 12:01 PM
 INVASIVE VENTILATION - STOP [**2186-2-2**] 04:40 PM
   Weaned off vassopressin yesterday
   Started TFs
   PSV 5/5 tolerated well
   Extubated, tolerated well
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2186-2-1**] 06:07 AM
   Metronidazole - [**2186-2-1**] 09:30 AM
   Ceftriaxone - [**2186-2-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-3**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-3**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 90 (90 - 107) bpm
   BP: 87/55(59) {80/49(55) - 117/85(89)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 62.2 kg
   Height: 67 Inch
    CVP: 3 (-3 - 23)mmHg
   Total In:
                                                                    578 mL
                                                                    204 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    418 mL
                                                                     84 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,235 mL
                                                                  1,615 mL
   Urine:
                                                                  1,035 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
                                                                    450 mL
   Balance:
                                                                 -2,657 mL
                                                                 -1,411 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (401 - 490) mL
   PS : 0 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 88%
   ABG: ///26/
   Ve: 8.2 L/min
   Physical Examination
   General: Intubated, responsive to voice, following some commands,
   opening eyes
   HEENT: +scleral icterus, nc/at. PERRL. EOMI. Op clear. RIJ in place
   without erythema
   CV: RRR. No m/r/g.
   Resp: CTAB with coarse BS b/l. No w/r/r
   Abd: distended with positive bs. Dull to percussion with fluid wave.
   Reducible umbilical hernias.
   Ext: 1+ edema B/L LE, Trace edema UE
   Skin:  No rash. Positive jaundice
   Neurologic: Responds to voice
   Labs / Radiology
   50 K/uL
   11.0 g/dL
   95 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   26 mg/dL
   110 mEq/L
   144 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2186-1-31**]  01:05 PM
                            [**2186-1-31**]  03:12 PM
                            [**2186-1-31**]  07:00 PM
                            [**2186-1-31**]  09:41 PM
                            [**2186-2-1**]  02:19 AM
                            [**2186-2-1**]  06:03 AM
                            [**2186-2-1**]  02:56 PM
                            [**2186-2-1**]  05:58 PM
                            [**2186-2-2**]  02:58 AM
                            [**2186-2-3**]  04:12 AM
   WBC
   19.1
   17.9
   18.3
   17.7
   14.2
   Hct
   31.1
   31.0
   31.2
   31.8
   30.8
   Plt
   68
   47
   47
   39
   50
   Cr
   1.1
   1.1
   1.0
   0.9
   0.6
   TCO2
   26
   26
   27
   28
   26
   Glucose
   159
   142
   134
   133
   69
   95
   Other labs: PT / PTT / INR:19.4/39.3/1.8, CK / CKMB /
   Troponin-T:674/26/0.04, ALT / AST:39/83, Alk Phos / T Bili:117/8.2,
   Amylase / Lipase:/12, Differential-Neuts:91.7 %, Band:0.0 %, Lymph:5.3
   %, Mono:2.5 %, Eos:0.4 %, Fibrinogen:113 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.9 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   This is a 51 y/o woman with alcohol abuse and presumed alcoholic
   cirrhosis admitted with altered mental status, shock, and upper GI
   bleeding.
   .
   # Shock: RESOLVED. Unclear etiology but most concerning for hypovolemic
   (due to blood loss). Other possibility includes septic/infectious from
   known UTI. Patient had obvious GI blood loss with hct down to 21 on
   arrival at OSH. Hct here has been stable in around 30 last 3 days
   (after 2 u prbcs at other hospital). Had clot in gastric fundus on
   initial EGD, repeat with grade 1 varices and gastric ulcer but no signs
   of active bleeding. Pt still has has leukocytosis which has trended
   steadily downwrad. Potential SBP ruled out, other sources include stool
   (c diff given bandemia), aspiration PNA, but no other cultures positive
   except for urine. Since other sources less likely and no other signs of
   infection or positive cx data vanc and cipro were d/c
d. 4 U PRBCs & 4
   U FFP thus far in MICU, no recent transfusions, HCT stable at ~30. CVL
   and arterial line placed for monitoring. Pt pulled out A-line but as
   pressures have been good, will not replace. Extubated and doing well on
   RA. Alert oriented. VSS.
   - Continue treating uti with ceftriaxone, on 5 of 7 day course
   .
   # Respiratory failure
 Resolved. O2 sats and respiratory status has
   improved after paracentesis, did well on PSV yesterday and was
   extubated. Sputum with yeast and gram + cocci in pairs and chains on
   gram stain but op flora on cx.
   -doing well on RA
   .
   # Upper GI bleeding: EGD on arrival to the MICU demonstrated large
   blood clot in the gastric fundus but no esophageal varices (difficult
   to discern due to hypotension).  HCT has been stable x several days at
   ~30, however platelets still low and some blood in urine.
   - continue daily HCT checks
   - cont PPI, will readdress need for octreotide PRN
   - maintain active type & cross
   - liver following
   - hold all anticoagulation, antiinflammatories
   .
   # Metabolic acidosis: Resolved. Anion gap. Lactate decreased to 1.3 in
   presence of renal failure.  Will readdress PRN and cont to trend lytes
   and AG.
   .
   # Altered mental status: Appears mostly resolved. Patient
   intermittently alert on arrival to MICU and following commands.
   Sedation is off except for PRN. Lactulose 30mg NGT TID started two days
   ago. Pt now off sedation and extubated. Alert and oriented x 3 and
   appears likely to be at her baseline.
   - watch for signs of EtOH withdrawl
   .
   # Acute renal failure: Resolved. Likely related to hypotension, volume
   depletion.  Recent rise in Cr, now trending down with adequate UOP
   overnight. Cr now 0.6. Resolved.
   - continue to follow uop & creatinine
   .
   # Coagulopathy: likely related to underlying liver disease (though
   platelets normal). INR 2.5 earlier down to 2.0 on arrival to MICU.
   continue to trend with goal < 2 for reversal of coagulopathy. Given
   vitamin K given at OSH.
   - ffp prn for goal INR < 2
   - vitamin K 10 mg admin
   - trend coags
   .
   # Thrombocytopenia: Likely related to underlying liver disease but has
   trended down since admission, concern for sepsis, also may be HIT but
   4T
s not satisfied so will defer HIT antibody for now. Improved
   slightly today to 50 from 39.
   - transfuse plt<20 or active bleed
   .
   # Hyperkalemia: Resolved
   .
   # Hyponatremia: Resolved. Likely related to intravascular volume
   depletion with element of cirrhosis; ADH may be playing a role with
   free water holding. Continue to trend.
   .
   # Alcohol abuse with cirrhosis: Patient arrived with tense ascites and
   had an initial large volume tap (8 L removed). Her alcohol level on
   arrival to [**Hospital1 1**] was 229 at 1800 pm (patient's family not aware she
   continued to drink per their report). Also, the patient had tylenol in
   her serum tox (? ingestion time but could have been up to 24 hours
   prior). Initial labs for SBP w/u negative. Had albumin 6 g/L
   replacement tonight . n-acetylcysteine completed. Paracentesis
   yesterday 4.8 L, neg for SBP, w improved respiratory status and CXR.
   Still oozing ascitic fluid from TAP site. [**Name (NI) **] pt
s hepatologist,
   Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3036**] in [**Location (un) 717**]
 stated last visit was in
   [**Month (only) 1374**], was not drinking then.  On aldactone, lasix, Vit K, b12,
   folate
 if pt is d/c
d she can follow-up with him
   - Continue folate/thiamine/mvi daily
   - social work consult for family coping
   - watch for withdrawal -> monitor vital signs
   .
   # FEN: tolerating POs well, adapt. replete lytes prn
   .
   # PPx: ppi [**Hospital1 **], no need for bowel meds currently, pneumoboots
   .
   # CODE: full, confirmed with daughter [**Name (NI) 3018**], daughter [**Name (NI) 3042**] making
   decisions on pt
s behalf
   .
   # COMM: with patient and family. Daughter [**First Name4 (NamePattern1) 3018**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3020**].
   Daughter [**First Name4 (NamePattern1) 3021**] [**Last Name (NamePattern1) 3019**] [**Telephone/Fax (1) 3022**].
   .
   # DISP: icu care
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL ABUSE
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-1-30**] 12:00 AM
   20 Gauge - [**2186-2-3**] 09:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: